US04704459
In 5 ml of pyridine was suspended 500 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate, and 770 mg of diphenylphosphoryl azide was added thereto, after which the resulting mixture was subjected to reaction at 80° C. for 4 hours. The solvent was thereafter removed by distillation under reduced pressure, and to the residue thus obtained were added 10 ml of ethyl acetate and 10 ml of water, after which the pH of the resulting mixture was adjusted to 2.0 with 6N hydrochloric acid. The organic layer was then separated, washed successively with 5 ml of saturated aqueous sodium hydrogencarbonate solution and 5 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added 5 ml of diethyl ether, after which the crystals thus deposited were collected by filtration to obtain 440 mg (yield 82.3%) of ethyl 7-azido-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 176°-177.5° C. The physical properties of this compound were identical with those of the compound obtained in Example 44.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 500 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
reactant | diphenylphosphoryl azide | 770 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
product | ethyl 7-azido-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 440 mg, yield 82.3% | N(=[N+]=[N-])C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C17H10F3N5O3
